US04071570
F. 4-(p-Methyl-α,α,β,β-tetrafluorophenethyl)-α,α,N-trimethylbenzylamine
By following essentially the same procedures described in Example 6, N-[α,α-dimethyl-4-(p-methyl-α,α,β,β-tetrafluorophenethyl)-benzyl]-formamide is reduced to 4-(p-methyl-α,α,β,β-tetrafluorophenethyl)-α,αN-trimethylbenzylamine. The crude oily base is converted to the hydrochloride salt by treating a solution in ethanol with a slight excess of 8N hydrogen chloride in ethanol. Dilution with absolute ether precipitates the white crystalline hydrochloride, m.p. 189°-190° C. The melting point is unchanged by recrystallization from isopropyl alcohol-ether.

reactant | N-[α,α-dimethyl-4-(p-methyl-α,α,β,β-tetrafluorophenethyl)-benzyl]-formamide | CC(C1=CC=C(C=C1)C(C(C1=CC=C(C=C1)C)(F)F)(F)F)(C)NC=O | C19H19F4NO
reactant | hydrogen chloride | 8N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-(p-Methyl-α,α,β,β-tetrafluorophenethyl)-α,α,N-trimethylbenzylamine | CC1=CC=C(C(C(F)(F)C2=CC=C(C(C)(C)NC)C=C2)(F)F)C=C1 | C19H21F4N
